US08710038B2
(4E)-1-(6-Hydroxy-1-benzofuran-2-yl)-5-phenylpent-4-ene-1,3-dione:
To a solution of the crude 2-acetyl-1-benzofuran-6-yl acetate (0.23 g) in tetrahydrofuran (5 mL) at −78° C. was added lithium diisopropylamine (2.0 N solution in THF, 1.63 mL, 3.25 mmol). The mixture was stirred at the same temperature for 20 min prior to the addition of cinnamoyl chloride (0.22 g, 1.3 mmol). The reaction was warmed slowly to room temperature and stirred overnight. The reaction was treated with 1.0 N aqueous hydrochloric acid solution (10 mL) at 0° C. and diluted with ethyl acetate (250 mL). The organic layer was washed with 2N aqueous hydrochloric acid (100 mL), saturated aqueous sodium chloride (60 mL), dried over magnesium sulfate, filtered, and concentrated to afford crude product. Purification on silica (gradient 8:2 to 6:4, hexanes/ethyl acetate) afforded the product (0.12 g, 30% yield) as a yellow solid: MS (EI) for C19H14O4: 307 (MH+).

reactant | 2-acetyl-1-benzofuran-6-yl acetate | 0.23 g | C(C)(=O)OC1=CC2=C(C=C(O2)C(C)=O)C=C1 | C12H10O4
reactant | lithium diisopropylamine | 3.25 mmol, 2.0 N, 1.63 mL | C(C)(C)NC(C)C.[Li]
reactant | cinnamoyl chloride | 1.3 mmol, 0.22 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | hydrochloric acid | 1.0 N, 10 mL | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | (4E)-1-(6-Hydroxy-1-benzofuran-2-yl)-5-phenylpent-4-ene-1,3-dione | 0.12 g, 30% yield | OC1=CC2=C(C=C(O2)C(CC(\C=C\C2=CC=CC=C2)=O)=O)C=C1 | C19H14O4
